US09260382B2
A solution of methyl cinnamate (28 mmol) and 7M ammonia in MeOH (30 ml) was sealed in a 100 ml thick-wall round bottom flashed, and heated at 90° C. with stirring for 72 h, resulting in a brown solution. After the solvent was removed by a rotary evaporator, the crude products were purified by flash silica gel chromatography (eluting with 2-10% MeOH in DCM) to afford cinnamamide.

reactant | methyl cinnamate | 28 mmol | C(C=CC1=CC=CC=C1)(=O)OC | C10H10O2
reactant | ammonia | 7M | N | H3N
solvent | MeOH | 30 ml | CO | CH4O
product | cinnamamide | C(C=CC1=CC=CC=C1)(=O)N | C9H9NO
